US07235343B2
Next, 2.9 g (0.05 mol) of tetramethylene sulfoxide was added to 5.0 g (0.025 mol) of the 2-n-butoxynaphthalene and 15 g of Eaton's reagent (Aldrich), followed by 24 hours of stirring at room temperature. 200 g of water and 50 g of diethyl ether were added to the reaction mixture for separation into two layers. To the aqueous layer, 8.5 g (0.025 mol) of potassium perfluorobutanesulfonate and 100 g of dichloromethane were added, followed by one hour of stirring at room temperature. The organic layer separated was washed three times with 50 g of water, after which the solvent was evaporated off on a rotary evaporator. The oily matter was recrystallized from ethyl acetate, filtered and dried. There was obtained 13.8 g of the end compound, 2-n-butoxy-1-naphthyltetrahydrothiophenium perfluorobutanesulfonate (yield 94%).

reactant | tetramethylene sulfoxide | 0.05 mol, 2.9 g | C1CCCS1=O | C4H8OS
reactant | 2-n-butoxynaphthalene | 0.025 mol, 5.0 g | C(CCC)OC1=CC2=CC=CC=C2C=C1 | C14H16O
reactant | Eaton's reagent | 15 g | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | potassium perfluorobutanesulfonate | 0.025 mol, 8.5 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
solvent | dichloromethane | 100 g | ClCCl | CH2Cl2
solvent | diethyl ether | 50 g | C(C)OCC | C4H10O
solvent | water | 200 g | O | H2O
product | 2-n-butoxy-1-naphthyltetrahydrothiophenium perfluorobutanesulfonate | yield 94% | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(CCC)OC1=C(C2=CC=CC=C2C=C1)[S+]1CCCC1 | InChI=1S/C18H23OS.C4HF9O3S/c1-2-3-12-19-17-11-10-15-8-4-5-9-16(15)18(17)20-13-6-7-14-20;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h4-5,8-11H,2-3,6-7,12-14H2,1H3;(H,14,15,16)/q+1;/p-1
